US05298649
(E)-3-(4-hydroxy-3-methoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid
2.2 g of ethyl (E)-3-(3-methoxy-4-methoxymethoxy-5-propyl-1-naphthyl)-2-methylpropenoate was dissolved in 50 ml of ethanol. A sodium hydroxide aqueous solution (sodium hydroxide 1.4 g/water 50 ml) was added, followed by stirring at 60° C. for 30 minutes. After cooling to room temperature, dilute hydrochloric acid was added to make the reaction mixture acidic, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant crystals were filtered to obtain 1.9 g of the titled compound as pale yellow crystals.

reactant | ethyl (E)-3-(3-methoxy-4-methoxymethoxy-5-propyl-1-naphthyl)-2-methylpropenoate | 2.2 g | COC=1C=C(C2=CC=CC(=C2C1OCOC)CCC)/C=C(/C(=O)OCC)\C | C22H28O5
reactant | sodium hydroxide | 50 ml, 1.4 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (E)-3-(4-hydroxy-3-methoxy-5-propyl-1-naphthyl)-2-methylpropenoic acid | 1.9 g | OC1=C(C=C(C2=CC=CC(=C12)CCC)/C=C(/C(=O)O)\C)OC | C18H20O4
